US07820821B2
A solution of 2-chloro-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide (1 mmol) in dioxane (2 mL) was reacted with aqueous NH4OH using the conditions described in Example 115. After the formation of 2-amino-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide was complete, the reaction mixture was charged with 2,6-dimethylpiperazine (6 mmol). The contents were heated at reflux for 10 h, and the reaction mixture was cooled to RT. The contents were poured onto ice cold water with vigorous stirring. The solid formed was collected by filtration, washed with water, and dried in vacuo to provide the product, 4-amino-2-(3,5-dimethyl-piperazin-1-yl)-N-(1H-indazol-6-yl)-5-nitrobenzamide as a yellow solid.

reactant | 2-chloro-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide | 1 mmol | ClC1=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C(C(=C1)F)[N+](=O)[O-] | C14H8ClFN4O3
reactant | NH4OH | [NH4+].[OH-]
reactant | 2-amino-4-fluoro-N-(1H-indazol-6-yl)-5-nitrobenzamide | NC1=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C(C(=C1)F)[N+](=O)[O-] | C14H10FN5O3
reactant | 2,6-dimethylpiperazine | 6 mmol | CC1NC(CNC1)C | C6H14N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-amino-2-(3,5-dimethyl-piperazin-1-yl)-N-(1H-indazol-6-yl)-5-nitrobenzamide | NC1=CC(=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C1[N+](=O)[O-])N1CC(NC(C1)C)C | C20H23N7O3
